US07135469B2
[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-acetic acid methyl ester
Part D: 1-(4-Methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one (1.0 g, 3.213 mmol) was dissolved in N,N-dimethylformamide (20 mL) and cooled to 0° C. Sodium hydride (60%, 0.321 g, 8.032 mmol) was added followed by methyl bromoacetate (0.608 mL, 6.425 mmol). The reaction was stirred at rt overnight. The reaction was quenched with 1N hydrochloric acid (100 mL), extracted with ethyl acetate (3×100 mL), washed with water (2×100 mL), washed with brine (1×100 mL), dried over MgSO4, concentrated, and purified by flash chromatography using 0–100% ethyl acetate/hexanes gradient as the eluent to afford the title compound (0.91 g, 74%): 1H NMR (CDCl3) δ 7.45 (d, j=8.8 Hz, 2H), 6.96 (d, j=9.2 Hz, 2H), 4.25 (s, 2H), 3.84 (s, 3H), 3.78 (t, j=7.0 Hz, 2H), 3.75 (m, 3H), 3.02 (t, j=6.8 Hz, 2H) ppm.

reactant | 1-(4-Methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 3.213 mmol, 1.0 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C(F)(F)F | C14H12F3N3O2
reactant | Sodium hydride | 8.032 mmol, 0.321 g | [H-].[Na+]
reactant | methyl bromoacetate | 6.425 mmol, 0.608 mL | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | [1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-acetic acid methyl ester | 0.91 g, 74% | COC(CN1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O)=O | C17H16F3N3O4
